data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4772,"CNC(=O)C(CC1=CC=C([O:1][H:2])C=C1)NC(C)=O.ClC[N+]12CCN(CC1)CC2.FI.F[B-](F)(F)F.O=P([O-])(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2860,"CC(=O)[O-].CC1=CC[C:1](C)([OH2+:2])[N:3]1C1=C(Br)C=CC=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7575,"C1=COC(C[NH2:1])=C1.CC(=O)CCC(C)([O-])[NH+:2](CC1=CC=CO1)[H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2971,"CCC[O+:1](C)[K:2]|((2, 1), 1)"
train,pmechdb_split_0,0,8965,"C#CC[OH:1].C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,4930,"CC(C)C(C)[Cl:1].[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,9776,"CCOC(C)(O)[NH:1]CC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,379,"CCCCCC1=C[C:1]([C:2](C)([CH:3](C2=CC=CC=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3877,"C[P:1](C)C.[CH:2](=[O:3])[N:4]=[NH:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,2482,"CC(=O)O[C:1](C)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6308,"CC(O[P:1](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[S:2]C1=NC2=C(C=CC=C2)S1)C1=CC=CC=C1.SC1=NC2=C(C=CC=C2)S1|((1, 2), 2)"
train,pmechdb_split_0,0,4012,"C[S:1]C.C[S:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3044,"CCC#[N:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3826,"C1CCOC1.CC(=O)[O:1][H:2].O.OCC[O:3]C1(O)CCC(OCC2=CC=CC=C2)CC1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4074,"CC[C:1](OC1=CC=C([N+](=O)[O-])C=C1)=[O:2].CN1C=C[N:3]=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10152,"C=[O+][Si-:1](C)(C)(C)[O:2]S(C)(=O)=O|((1, 2), 2)"
train,pmechdb_split_0,0,6688,"CC(=O)[O-].C[O+:1]=[CH:2]C1CCC2(CC1)OCCO2.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1396,"CC#[C-:1].CCC#[N+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4882,"CC[O:1][CH:2](CCCCCCC(C)=O)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,482,"C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)([O-])([N+]2=CC=C(N(C)C)C=C2)[O+:2](C2CC(C)(C)CC3=CC4=COC=C4CC32O)[H:3])C=C1.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1094,"C[N-:1][CH:2]=[CH:3]CC#N.[H:4][OH2+:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,225,"CC(=O)[O-:1].O=C(OC1CCC(O)([N+:2]2([H:3])CCN(C3=CC=CC=C3)CC2)CC1)C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1656,"N#CC1=C[C:1]([N+](=O)[O-])([H:2])[CH+:3]O1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,784,"C[Si](C)(C)[CH2-:1].[CH2:2]=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8385,"CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O+:1](CC1=CC(OC2=CC=CC=C2)=CC=C1)[H:2].O=C(CCCC(F)=C(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1179,"CC(=O)[O:1][H:2].CC1=CC=C(C2=CC(C(=O)CCC(C)([NH3+])[O-:3])=CC(C3=CC=C(C)N3)=C2)N1.O=C[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1271,"C=C1CC23C(=O)C(CC(COCC4=CC=C(OC)C=C4)=CC2C1[O+:1](I1(OC(C)=O)(OC(C)=O)OC(=O)C2=C1C=CC=C2)[H:2])C1C(CC3C)C1(C)C.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8194,"CCN(CC)CC.O=[N+]([O-])[C:1]1=[C:2](Cl)[NH:3]C2=C(C=CC=C2)[C:4]1(Cl)[O:5]P(=O)(Cl)Cl|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8069,"CC1=NCCC2=CC=C[C:1](=[O+:2]C)[C:3]21[H:4].O=P(O)(Cl)Cl.[Cl-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4282,"CC(=O)[O-:1].COC1=CC2=C(C=C1)C=C(C1(O)CC=C(C3=CC=CC=C3)[NH+:2]1[H:3])C=C2.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3659,"CC(=O)[O-].CC[N:1](CC)CC.CC[NH+](CC)CC.COC1=CC([C:2](C(OC(C)=O)C2=CC(O)=C(OC)C=C2)([H:3])[C:4](OC(C)=O)=[O:5])=CC(OC)=C1OC|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4419,"C[Si](C)(C)C=[C:1]=[CH2:2].C[Si](C)(C)[O+:3](C)[I:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,8459,"C=C[C:1](OCC)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1287,"CC(=O)[O:1][H:2].CO.O.O=CC1CCC2(CC1)OCC[O:3]2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5598,"CC(=O)[O:1][CH:2](C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9026,"CC[OH:1].C[C:2](C)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5499,"CCN[C:1](=[CH:2]CCC(C)=O)[O-:3].[H:4][OH2+:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4824,"C1=CC2=C(C=C1)C=C1C(=C2)C2=NC3=C(C=CC=C3)NC12[OH:1].CC(=O)[O:2][H:3].CO.O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9040,"O=[N+]([O-])C1=C([O:1][H:2])C=CC=C1.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,455,"CCO[C:1](C1=CC=CC=C1)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3323,"CC[CH:1](C)[Br:2].C[CH:3]=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1376,"N#CC1=CO[C:1](S(=O)(=O)O)([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3793,"C#CCCC12CC([Si:1](C)(C)C)C(=O)C=C1CCC2C.CO.[OH-:2].[OH][K]|(2, 1)"
train,pmechdb_split_0,0,9835,"Br[C:1]1([H:2])CCCC[CH:3]1[Br:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4940,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCO.CCCCO[C:1](C1=CC=C([N+](=O)[O-])C=C1)([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2478,"CN(C)C[OH:1].C[NH+:2](C)[H:3]|(1, 3);((3, 2), 2)"
